US07767674B2
1-(5-tert-Butyl-2-methyl-2H-pyrazol-3-yl)-3-[4-(4-pyridin-4-ylmethyl-piperazin-1-ylcarbonyl)-phenyl]-urea
To a solution of 4-[3-(5-tert-butyl-2-methyl-2H-pyrazol-3-yl)-ureido]benzoic acid (0.08 g, 0.26 mmol) in a mixture of dichloromethane (4 mL) and DMF (0.20 mL) is added 1-(4-pyridinylmethyl)piperazine (0.046 g, 0.26 mmol), PS-DCC (0.41 g, 0.52 mmol) and HOBT (0.035 g, 0.26 mmol). The mixture is stirred overnight at 45° C. in a closed tube (orbital stirring). Then PS-Trisamine is added (0.52 mmol) and the mixture is stirred for 4 hr at room temperature, filtrated, and washed three times with dichloromethane. The solvents are evaporated under reduced pressure and the residue is purified by biotage column chromatography (eluent: ethyl acetate/methanol 10:1) to give 0.020 g (0.04 mmol), 16% as white solid. ES+(m/z)=476 [M+H].

reactant | 4-[3-(5-tert-butyl-2-methyl-2H-pyrazol-3-yl)-ureido]benzoic acid | 0.26 mmol, 0.08 g | C(C)(C)(C)C=1C=C(N(N1)C)NC(NC1=CC=C(C(=O)O)C=C1)=O | C16H20N4O3
reactant | 1-(4-pyridinylmethyl)piperazine | 0.26 mmol, 0.046 g | N1=CC=C(C=C1)CN1CCNCC1 | C10H15N3
reactant | DCC | 0.52 mmol, 0.41 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOBT | 0.26 mmol, 0.035 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Trisamine | C(C(CO)(CO)N)O | C4H11NO3
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | DMF | 0.20 mL | CN(C)C=O | C3H7NO
product | 1-(5-tert-Butyl-2-methyl-2H-pyrazol-3-yl)-3-[4-(4-pyridin-4-ylmethyl-piperazin-1-ylcarbonyl)-phenyl]-urea | C(C)(C)(C)C=1C=C(N(N1)C)NC(=O)NC1=CC=C(C=C1)C(=O)N1CCN(CC1)CC1=CC=NC=C1 | C26H33N7O2
